US08114640B2
Fmoc-3-Cl-D-Tyr(Me)-OH (8)
Boc-3-Cl-D-Tyr(Me)-OH (9.60 g, 29.1 mmol) was treated with 4 M HCl in dioxane (25 mL) at 23° C. for 1 h then the reaction mixture was concentrated in vacuo. The residual white solid was dissolved in 10% aqueous Na2CO3 (60 mL), dioxane (60 mL) and N-(9-Fluorenylmethoxy-carbonyloxy)succinimide (9.82 g, 29.1 mmol) were added. The reaction mixture was stirred at 23° C. for 18 h, then diluted with water (100 mL). The aqueous phase was extracted with Et2O (2×100 mL), acidified to pH 2 (conc. HCl) and extracted with EtOAc (3×100 mL). The combined EtOAc phases were washed with saturated aqueous NaCl, dried with MgSO4, filtered and concentrated. Without further purification the title compound 8 (12.65 g, 96%) was obtained as white foam. TLC Rf=0.26 (EtOAc, PMA stain); 1H NMR (CDCl3, 400 MHz) δ 9.82 (br s, 1H), 7.76 (d, J=7.6, 2H), 7.56 (t, J=7.6, 2H), 7.39 (t, J=7.6, 2H), 7.31 (d, J=7.6, 2H), 7.19 (d, J=1.6, 1H), 6.99 (dd, J=8.3, 1.6, 1H), 6.80 (d, J=8.3, 1H), 5.44 (d, J=7.8, 1H), 4.64-4.69 (m, 1H), 4.46 (dd, J=10.5, 7.0, 1H), 4.35 (dd, J=10.5, 7.0, 1H), 4.21 (t, J=7.0, 1H), 3.83 (s, 3H), 3.14 (dd, J=14.1, 5.3, 1H), 3.02 (dd, J=14.1, 6.3, 1H); 13C NMR (CDCl3, 101 MHz) δ 175.0, 155.9, 154.2, 143.7, 141.4, 131.1, 128.8, 128.8, 127.8, 127.2, 125.2, 125.1, 120.1, 112.2, 67.2, 56.1, 54.6, 47.2, 36.8; MS (ESI+) m/z 474.1 [M+Na]+ (C25H22ClNNaO5 requires 474.1).

reactant | Boc-3-Cl-D-Tyr(Me)-OH | 29.1 mmol, 9.60 g | N([C@H](CC1=CC(=C(C=C1)OC)Cl)C(=O)O)C(=O)OC(C)(C)C | C15H20ClNO5
reactant | HCl | 4 M | Cl | ClH
reactant | N-(9-Fluorenylmethoxy-carbonyloxy)succinimide | 29.1 mmol, 9.82 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | Fmoc-3-Cl-D-Tyr(Me)-OH | N([C@H](CC1=CC(=C(C=C1)OC)Cl)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C25H22ClNO5
